US04904675
5-Carboxy-2-(5-tetrazolyl)-pyridine
Sodium azide (12.0 g, 0.18 mol) and anhydrous ammonium chloride (1.5 g) are added to a stirred solution of 5-carboxy-2-cyanopyridine (22.0 g, 0.15 mol) in dry dimethylformamide (375 ml). The reaction mixture is heated to 80° and held at this temperature for 24 h. After this time, a further portion of sodium azide 6.0 g, 0.09 mol) is added and heating continued for a further 24 h. The reaction mixture is then allowed to cool to ambient temperature and diluted with water (560 ml). This solution is acidified to pH 3 with 5N hydrochloric acid and, while a solid precipitates, stirred at this pH for 30 min. The product is filtered off and stirred in refluxing water (60 ml) for 15 min. It is then refiltered, washed with dichloromethane (5×20 ml) and dried in vacuo at 60° to yield the title compound as a light solid; m.p. 257°-259°.

reactant | Sodium azide | 0.18 mol, 12.0 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
reactant | 5-carboxy-2-cyanopyridine | 0.15 mol, 22.0 g | C(=O)(O)C=1C=CC(=NC1)C#N | C7H4N2O2
reactant | sodium azide | 0.09 mol, 6.0 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dimethylformamide | 375 ml | CN(C=O)C | C3H7NO
solvent | water | 560 ml | O | H2O
product | 5-Carboxy-2-(5-tetrazolyl)-pyridine | C(=O)(O)C=1C=CC(=NC1)C1=NN=NN1 | C7H5N5O2
